US04367234
5-(5-Chloro-2-methoxyphenyl)oxazolidine-2,4-dione
Potassium tert.-butoxide (539 mg., 4.8 mmoles) was dissolved in ethanol (2.12 g., 2.65 ml., 4.6 moles). Diethyl carbonate (625 mg., 5.3 mmoles) and then 2-(5-chloro-2-methoxyphenyl)-2-hydroxyacetamide (1.0 g., 4.6 mmoles) were added and the mixture was stirred for a few minutes to achieve solution, and then heated to reflux for 16 hours, at which time tlc (1:1 ethyl acetate:chloroform) indicated some unreacted starting material. Addition of more diethyl carbonate (625 mg.) and potassium tert-butoxide (100 mg.) and a further 2.5 hours of reflux did not appear to significantly reduce the level of starting acetamide. The reaction mixture was cooled to room temperature, poured into excess, iced 1 N hydrochloric acid and extracted with three portions of chloroform. The combined chloroform extracts were extracted with excess 5% sodium bicarbonate in two portions. The combined bicarbonate extracts were poured slowly into excess 1 N hydrochloric acid to precipitate 5-(5-chloro-2-methoxyphenyl)oxazolidine-2,4-dione (430 mg. 39%; m.p. 179°-181° C.).

reactant | Potassium tert.-butoxide | 4.8 mmoles, 539 mg | CC(C)([O-])C.[K+]
reactant | ethanol | 4.6 moles, 2.65 ml, 2.12 g | C(C)O | C2H6O
reactant | Diethyl carbonate | 5.3 mmoles, 625 mg | C(OCC)(OCC)=O | C5H10O3
reactant | 2-(5-chloro-2-methoxyphenyl)-2-hydroxyacetamide | 4.6 mmoles, 1.0 g | ClC=1C=CC(=C(C1)C(C(=O)N)O)OC | C9H10ClNO3
reactant | diethyl carbonate | 625 mg | C(OCC)(OCC)=O | C5H10O3
reactant | potassium tert-butoxide | 100 mg | CC(C)([O-])C.[K+]
reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(5-Chloro-2-methoxyphenyl)oxazolidine-2,4-dione | ClC=1C=CC(=C(C1)C1C(NC(O1)=O)=O)OC | C10H8ClNO4
